US07138399B2
G3. 2-Chloro-5-(3,4-dichlorphenyl)-3-nitropyridine
A mixture of 1.6 g of 5-(3,4-dichlorphenyl)-2-hydroxy-3-nitropyridine (starting material G4) and 10 ml of phosphorous oxychloride is heated under reflux to 120° C. for 3 hours. After cooling the mixture is carefully added to ice/water, then neutralized with sodium hydrogencarbonate and extracted three times with ethyl acetate. The combined organic phases are evaporated to dryness and the residue is chromatographed on a silica gel column (ethylacetate/petroleum ether 1:20). Concentration of the chromatographically pure fractions gives 0.88 g of the title compound as yellow crystals. The mass spectrum shows the molecular peak M+ at 302 Da.

reactant | 5-(3,4-dichlorphenyl)-2-hydroxy-3-nitropyridine | 1.6 g | ClC=1C=C(C=CC1Cl)C=1C=C(C(=NC1)O)[N+](=O)[O-] | C11H6Cl2N2O3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | phosphorous oxychloride | 10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-5-(3,4-dichlorphenyl)-3-nitropyridine | 0.88 g | ClC1=NC=C(C=C1[N+](=O)[O-])C1=CC(=C(C=C1)Cl)Cl | C11H5Cl3N2O2
